data/my_data/train.txt
[CH3:1][C:2](=[O:3])[NH+:4]1[CH2:9][CH2:8][C:7]2([CH2:6][CH2:5]1)[CH2:10][N:11]=[C:12]([c:13]1[cH:14][c:15]3[s:16][c:17]([CH3:18])[c:19]([N:20]([CH3:21])[S:22](=[O:23])(=[O:24])[c:25]4[cH:26][cH:27][cH:28][s:29]4)[c:30]3[nH:31]1)[S:32]2.[Cl-:33]>>[CH3:1][C:2](=[O:3])[N:4]1[CH2:5][CH2:6][C:7]2([CH2:8][CH2:9]1)[CH2:10][N:11]=[C:12]([c:13]1[cH:14][c:15]3[s:16][c:17]([CH3:18])[c:19]([N:20]([CH3:21])[S:22](=[O:23])(=[O:24])[c:25]4[cH:26][cH:27][cH:28][s:29]4)[c:30]3[nH:31]1)[S:32]2.[ClH:33]
[CH3:11][N:12]([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1-[c:20]1[cH:21][cH:22][cH:23][cH:24][c:25]1[P+:26]([Pd:27])([CH:28]1[CH2:29][CH2:30][CH2:31][CH2:32][CH2:33]1)[CH:34]1[CH2:35][CH2:36][CH2:37][CH2:38][CH2:39]1.[OH:1][CH2:2][CH2:3][c:4]1[cH:5][cH:6][cH:7][c:8]([Cl:9])[cH:10]1.CCCCNCCCC.[Li]N([Si](C)(C)C)[Si](C)(C)C>>[OH:1][CH2:2][CH2:3][c:4]1[cH:5][cH:6][cH:7][c:8]([Pd:27]([Cl:9])[P+:26]([c:25]2[c:20](-[c:19]3[c:14]([N:12]([CH3:11])[CH3:13])[cH:15][cH:16][cH:17][cH:18]3)[cH:21][cH:22][cH:23][cH:24]2)([CH:28]2[CH2:29][CH2:30][CH2:31][CH2:32][CH2:33]2)[CH:34]2[CH2:35][CH2:36][CH2:37][CH2:38][CH2:39]2)[cH:10]1.CCCCNCCCC.[Li]N([Si](C)(C)C)[Si](C)(C)C
[Br-:37].[CH3:1][CH2:2][CH2:3][CH2:4][O:5][c:6]1[n:7][c:8]([NH2:9])[c:10]2[c:35]([n:36]1)[NH+:15]([CH2:16][CH2:17][CH2:18][CH:19]1[CH2:20][CH2:21][CH2:22][N:23]([C:24](=[O:25])[O:26][CH2:27][c:28]3[cH:29][cH:30][cH:31][cH:32][cH:33]3)[CH2:34]1)[C:12]([O:13][CH3:14])=[N:11]2>>[BrH:37].[CH3:1][CH2:2][CH2:3][CH2:4][O:5][c:6]1[n:7][c:8]([NH2:9])[c:10]2[c:35]([n:36]1)-[n:15]([CH2:16][CH2:17][CH2:18][CH:19]1[CH2:20][CH2:21][CH2:22][N:23]([C:24](=[O:25])[O:26][CH2:27][c:28]3[cH:29][cH:30][cH:31][cH:32][cH:33]3)[CH2:34]1)[C:12]([O:13][CH3:14])=[N:11]2
[CH3:1][C:2]1([CH2:3][N:4]([N:5]=[N-:6])[P+:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[CH2:26][c:27]2[cH:28][c:29]([Cl:30])[cH:31][c:32](-[c:33]3[cH:34][cH:35][cH:36][cH:37][cH:38]3)[c:39]2[O:40]1.[OH2:41]>>[CH3:1][C:2]1([CH2:3][N:4]2[N:5]=[N:6][P:7]2([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[CH2:26][c:27]2[cH:28][c:29]([Cl:30])[cH:31][c:32](-[c:33]3[cH:34][cH:35][cH:36][cH:37][cH:38]3)[c:39]2[O:40]1.[OH2:41]
[CH3:33][n:34]1[cH:35][c:36]([CH2:37][O:1][P+:2]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[n:47][n:48]1.[CH3:32][CH2:31][O:30][C:28](=[O:29])[NH:27][NH:26][C:24](=[O:25])[O:23][CH2:22][CH3:21].[O-:38][c:39]1[cH:40][c:41]([Br:42])[cH:43][cH:44][c:45]1[F:46]>>[O:1]=[P:2]([c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1)([c:9]1[cH:10][cH:11][cH:12][cH:13][cH:14]1)[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:21][CH2:22][O:23][C:24](=[O:25])[NH:26][NH:27][C:28](=[O:29])[O:30][CH2:31][CH3:32].[CH3:33][n:34]1[cH:35][c:36]([CH2:37][O:38][c:39]2[cH:40][c:41]([Br:42])[cH:43][cH:44][c:45]2[F:46])[n:47][n:48]1
[CH3:1][O:2][CH2:3][CH2:4][NH+:5]([CH2:6][CH2:7][O:8][CH2:9][CH2:10][O:11][CH3:12])[C:13]([O:14][C:15](=[N:16][CH:17]1[CH2:18][CH2:19][CH2:20][CH2:21][CH2:22]1)[NH:23][CH:24]1[CH2:25][CH2:26][CH2:27][CH2:28][CH2:29]1)([CH2:30][CH:31]1[S:32](=[O:33])(=[O:34])[c:35]2[c:36]([cH:37][c:38]([S:39]([NH2:40])(=[O:41])=[O:42])[s:43]2)[NH:44][C:45]1=[O:46])[O-:47]>>[CH3:1][O:2][CH2:3][CH2:4][N:5]([CH2:6][CH2:7][O:8][CH2:9][CH2:10][O:11][CH3:12])[C:13]([O:14][C:15](=[NH+:16][CH:17]1[CH2:18][CH2:19][CH2:20][CH2:21][CH2:22]1)[NH:23][CH:24]1[CH2:25][CH2:26][CH2:27][CH2:28][CH2:29]1)([CH2:30][CH:31]1[S:32](=[O:33])(=[O:34])[c:35]2[c:36]([cH:37][c:38]([S:39]([NH2:40])(=[O:41])=[O:42])[s:43]2)[NH:44][C:45]1=[O:46])[O-:47]
[O:1]=[C:2]([OH:3])[C@@H:4]1[CH2:5][CH2:6][CH2:7][NH+:8]1[CH:9]([CH2:10][n:11]1[c:12]2[n:13][c:14](=[O:15])[nH:16][c:17](=[O:18])[c:19]-2[n:20][c:21]2[cH:22][c:23]([CH3:24])[c:25]([CH3:26])[cH:27][c:28]12)[O-:29].[BH3-]C#N.[Na+].[OH3+]>>[O:1]=[C:2]([OH:3])[C@@H:4]1[CH2:5][CH2:6][CH2:7][N:8]1[CH:9]([CH2:10][n:11]1[c:12]2[n:13][c:14](=[O:15])[nH:16][c:17](=[O:18])[c:19]-2[n:20][c:21]2[cH:22][c:23]([CH3:24])[c:25]([CH3:26])[cH:27][c:28]12)[OH:29].[BH3-]C#N.[Na+].[OH3+]
[O-:1][C:2](=[O:3])[NH2+:4][c:5]1[cH:6][cH:7][c:8](-[n:9]2[c:10](=[O:11])[nH:12][c:13]3[cH:14][cH:15][cH:16][cH:17][c:18]3[c:19]2=[O:20])[cH:21][cH:22]1.C[C+](C)C.O>>[NH2:4][c:5]1[cH:6][cH:7][c:8](-[n:9]2[c:10](=[O:11])[nH:12][c:13]3[cH:14][cH:15][cH:16][cH:17][c:18]3[c:19]2=[O:20])[cH:21][cH:22]1.[O:1]=[C:2]=[O:3].C[C+](C)C.O
[O:1]=[c:2]1[cH:3][c:4]([N:5]2[CH2:6][CH2:7][N:8]([CH:9]([OH2+:10])[c:11]3[c:12]([Cl:13])[cH:14][cH:15][c:16]([Cl:17])[c:18]3[Cl:19])[CH2:20][CH2:21]2)[n:22][cH:23][nH:24]1.O.[BH3-]C#N.[Na+]>>[O:1]=[c:2]1[cH:3][c:4]([N:5]2[CH2:6][CH2:7][N+:8](=[CH:9][c:11]3[c:12]([Cl:13])[cH:14][cH:15][c:16]([Cl:17])[c:18]3[Cl:19])[CH2:20][CH2:21]2)[n:22][cH:23][nH:24]1.[OH2:10].O.[BH3-]C#N.[Na+]
